US04789680
A solution of 8 g (0.054 mol) of acetylene-dicarboxylic acid dimethyl ester in 25 ml of benzene is added dropwise to a solution of 8.4 g (0.05 mol) of o-chlorobenzyl azide in 50 ml of benzene that is boiling under reflux. After a further hour under reflux, the whole is diluted with 75 ml of cyclohexane and, after cooling, the substance that has crystallised out is filtered off with suction. After washing with a mixture of diethyl ether and hexane (1:1), there is obtained 1-(o-chlorobenzyl)-1H-1,2,3-triazole-4,5-dicarboxylic acid dimethyl ester having a melting point of 88°-91°.

reactant | acetylene-dicarboxylic acid dimethyl ester | 0.054 mol, 8 g | COC(=O)C#CC(=O)OC | C6H6O4
reactant | o-chlorobenzyl azide | 0.05 mol, 8.4 g | ClC1=C(CN=[N+]=[N-])C=CC=C1 | C7H6ClN3
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | cyclohexane | 75 ml | C1CCCCC1 | C6H12
product | 1-(o-chlorobenzyl)-1H-1,2,3-triazole-4,5-dicarboxylic acid dimethyl ester | COC(=O)C=1N=NN(C1C(=O)OC)CC1=C(C=CC=C1)Cl | C13H12ClN3O4
